US07399565B2
An invented undercoat layer dispersion was prepared as follows: a porphine/titanium oxide/phenolic resin/melamine resin dispersion was prepared by ball milling 0.25 grams of meso-Tetraphenylporphine-4,4′,4″,4′″-tetracarboxylic acid (commercially available from Frontier Scientific, Inc., Logan, Utah), 15 grams of titanium dioxide (MT-150W, Tayca Company), 8 grams of the phenolic resin (VARCUM 29159, OxyChem Company, Mw of about 3,600, viscosity of about 200 cps) and 7.5 grams of the melamine resin (CYMEL 323, CYTEC) in 7.5 grams of 1-butanol, and 7.5 grams of xylene with 120 grams of 1 millimeter diameter sized ZrO2 beads for 5 days. The resulting titanium dioxide dispersion was filtered with a 20 micrometer pore size nylon cloth, and then the filtrate was measured with HORIBA CAPA 700 Particle Size Analyzer, and there was obtained a median TiO2 particle size of 50 nanometers in diameter and a TiO2 particle surface area of 30 m2/gram with reference to the above Porphine/TiO2/VARCUM/CYMEL dispersion. 0.5 grams of methyl ethyl ketone were added into the dispersion to obtain the coating dispersion. An aluminum drum, cleaned with detergent and rinsed with deionized water, was then coated with the above generated coating dispersion, and subsequently dried at 160° C. for 40 minutes, which resulted in the TUC8 layer deposited on the aluminum and comprised of TiO2/VARCUM/CYMEL with a weight ratio of about 60/16/24 and a thickness of 5.5 microns.

reactant | meso-Tetraphenylporphine-4,4′,4″,4′″-tetracarboxylic acid | 0.25 grams | C1CC2C(C3C=CC(N3)C(C4CCC(N4)C(C5C=CC(N5)C(C1N2)C6=CC=C(C=C6)C(=O)O)C7=CC=C(C=C7)C(=O)O)C8=CC=C(C=C8)C(=O)O)C9=CC=C(C=C9)C(=O)O | C48H48N4O8
reactant | titanium dioxide | 15 grams | [O-2].[O-2].[Ti+4]
reactant | xylene | 7.5 grams | C=1(C(=CC=CC1)C)C | C8H10
solvent | 1-butanol | 7.5 grams | C(CCC)O | C4H10O
product | porphine titanium oxide | C12=CC=C(N1)C=C1C=CC(=N1)C=C1C=CC(N1)=CC=1C=CC(N1)=C2.[O-2].[Ti+4].[O-2] | InChI=1S/C20H14N4.2O.Ti/c1-2-14-10-16-5-6-18(23-16)12-20-8-7-19(24-20)11-17-4-3-15(22-17)9-13(1)21-14;;;/h1-12,21,24H;;;/q;2*-2;+4
